2149-08-20 07:08:00 Physician Resident Progress Note
Chief Complaint: Right axillary hematoma
   24 Hour Events:
 ANGIOGRAPHY - At [**2149-8-19**] 10:00 PM
   Return from IR s/p embolization
   - Patient underwent angiography last night and had embolization to
   intercostal arteries.
   - Was given 1 Unit of cryo and 3 Units of FFP this morning
   - IR planning to D/C sheath if able when INR < 1.5
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2149-8-20**] 03:27 AM
   Furosemide (Lasix) - [**2149-8-20**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-20**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 84 (76 - 92) bpm
   BP: 112/54(68) {103/43(59) - 125/65(79)} mmHg
   RR: 23 (11 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  987 mL
   PO:
                  TF:
   IVF:
   Blood products:
   987 mL
   Total out:
                                                                    380 mL
                                                                  1,030 mL
   Urine:
                                                                    380 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -380 mL
                                                                    -43 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   General: Middle aged, pleasant man in NAD.
   HEENT: Scleral icterus, ungal icterus, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation anteriorly, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, loud S1, normal S2.  No murmurs, rubs,
   gallops
   Abdomen:  Diffusely distended with positive fluid wave.  Non-tender,
   positive bowel sounds.
   GU: no foley
   Ext: 2+ edema in [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 1858**].  Warm, well perfused, dopplerable
   pulses, no clubbing, or cyanosis.
   Labs / Radiology
   153 K/uL
   10.3 g/dL
   1.0 mg/dL
   3.7 mEq/L
   29 mg/dL
   134 mEq/L
   29.5 %
   9.4 K/uL
        [image002.jpg]
                             [**2149-8-19**]  07:33 PM
                             [**2149-8-19**]  10:36 PM
   WBC
   9.2
   9.4
   Hct
   25.7
   29.5
   Plt
   143
   153
   Cr
   1.0
   Other labs: PT / PTT / INR:22.0/93.2/2.1
   Assessment and Plan
   ASSESSMENT AND PLAN:  The patient is a 62 yo man with h/o ESLD [**2-10**] ETOH
   cirrhosis and coagulopathy, who initially presented with anemia in the
   setting of large hematoma and was transferred to the MICU today for
   observation s/p embolization of intracostal artery.
   #. Axillary Hematoma:  The patient fell prior to admission and
   developed a large axillary hematoma.  IR underwent embolization of the
   T9 intercostal artery on [**8-7**], and the patient remained hemodynamically
   stable after this time.  His Hct dropped this morning, and he was noted
   to have increased bleeding at the site.  He is now s/p repeat
   embolization by IR.  Per report, no culprit vessel was found during
   procedure, and sheath was left in place [**2-10**] coagulopathy.
    - Check Hct again tonight and then tomorrow morning.
    - Transfuse for Hct < 23 or evidence of bleeding
    - Maintain active T&S and reserve 2 U PRBCs
    - Maintain 2 PIVs.
    - Morphine prn for pain
    - Keep sheath in place with continuous saline irrigation and check
   distal and femoral pulses with doppler q1h.
    - Give 3 U FFP at 5 am and recheck INR at 6 am.
   #. Diarrhea: The patient recently developed diarrhea in the setting of
   lactulose, bowel regimen, and antibiotic use.  CDiff was negative x2.
    - Repeat CDiff tomorrow for third negative culture
    - Hold bowel regimen and Lactulose, as patient doesn't have a known
   history of encephalopathy.
   .
   # EtOH cirrhosis:  Patient was seen by hepatology on this admission and
   is planning to undergo transplant evaluation upon discharge at [**Hospital1 7684**].  Paracentesis was negative for SBP, and the patient doesn't
   have a known history of encephalopathy/varices.  Spironolactone and
   Furosemide were discontinued today in the setting of acute bleed.
    - Restart Lasix and Spironolactone in the morning if hemodynamically
   stable.
   .
   # Anemia:  The patient has a history of anemia s/p extensive workup at
   [**Hospital1 966**] in [**1-17**].  Recent colonoscopy/EGD did not demonstrate source, though
   the patient was reportedly guaiac positive in the hospital.  DDx
   includes acute hematoma v. underlying liver disease v. diverticulosis,
   v. portal gastropathy etc.
    - Continue to guaiac stools
    - Daily coags/bili
    - PO PPI
    - F/[**Location **] GI recommendations. Needs GI f/u outpatient.
   .
   #. UTI: The patient was found to have a UTI on [**8-10**] and is currently on
   Day #10 of Cipro.  No fever spikes and WBC is trending down.
    - Stop Cipro as 10 day course was completed.
   .
   # ARF:  The patient presented with Cr of 3.7 at OSH, from baseline of
   1.0.  His Cr returned to [**Location 838**] with IVFs, most likely [**2-10**] pre-renal
   from hypovolemia.
   .
   # HTN: The patient has a history of HTN, for which he takes Lasix and
   Aldactone at home.
    - Restart BP (liver) meds tomorrow if hemodynamically stable.
   .
   # ETOH abuse. Reports longstanding sobriety. No withdrawal symptoms
   during hospitalization.
    - MVI, thiamine, folate
   .
   #. FEN:Regular diet, lytes prn
   .
   #. Prophylaxis: pneumoboots, PPI, regimen.
   .
   #. Code: Full (discussed with patient), reports HCP is his sister.
   .
   #. Communication: with patient and PCP
   .
   #. Disposition: MICU tonight for observation.
   ICU Care
   Nutrition:  Regular, cardiac diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-8-19**] 10:00 PM
   22 Gauge - [**2149-8-19**] 10:12 PM
   Prophylaxis:
   DVT:  Hold Heparin SQ until morning
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2149-08-20 09:06:00 Physician Attending Progress Note
Chief Complaint: hematoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62M with advanced liver disease, presented after a fall with severe
   anemia due to a large hematoma in the right axialla. Admitted to MICU
   after IR re-embolization last night for observation. Prior embolization
   on [**8-7**].
   24 Hour Events:
 ANGIOGRAPHY - At [**2149-8-19**] 10:00 PM
   -Return from IR s/p embolization
   -given cryo and ffp
                            History obtained from Patient
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2149-8-20**] 03:27 AM
   Furosemide (Lasix) - [**2149-8-20**] 05:45 AM
   Pantoprazole (Protonix) - [**2149-8-20**] 07:55 AM
   Other medications:
   pantopr, ursodiol, fa; no abx
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: Anemia, Coagulopathy
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-8-20**] 08:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.3
   HR: 81 (76 - 92) bpm
   BP: 100/41(55) {100/41(55) - 125/65(79)} mmHg
   RR: 22 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  1,077 mL
   PO:
                  90 mL
   TF:
   IVF:
   Blood products:
   987 mL
   Total out:
                                                                    380 mL
                                                                  1,455 mL
   Urine:
                                                                    380 mL
                                                                  1,455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -380 mL
                                                                   -378 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal) SM rusb
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended with fluid
   wave
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   154 K/uL
   112 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.6 mEq/L
   30 mg/dL
   102 mEq/L
   137 mEq/L
   26.9 %
   7.3 K/uL
        [image002.jpg]
                             [**2149-8-19**]  07:33 PM
                             [**2149-8-19**]  10:36 PM
                             [**2149-8-20**]  06:12 AM
   WBC
   9.2
   9.4
   7.3
   Hct
   25.7
   29.5
   26.9
   Plt
   143
   153
   154
   Cr
   1.0
   1.0
   Glucose
   112
   Other labs: PT / PTT / INR:18.1/78.7/1.5, ALT / AST:18/49, Alk Phos / T
   Bili:68/37.3, LDH:751 IU/L, Ca++:9.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.4
   mg/dL
   Imaging: chest CT: huge hematoma R chest
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 COAGULOPATHY
   62M with esld, presents after a fall with a gigantic r chest hematoma,
   now s/p several emblizations of the R intercostals, now awaiting sheath
   pull
   Hematoma: still unclear how stable this is
   -recheck hct this early pm
   -IR to pull sheath this am
   -monitor hct, [**Hospital1 **] for now; follow exam though likely of limited value
   -if continues to bleed may need thoracics though very high risk
   Esld: elevations in bili likely from hematoma rather then progression
   of liver disease
   -liver following
   -will review prior records re transplant eval
   Uti: completed abx
   ICU Care
   Nutrition: restart diet after sheath pulled
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2149-8-19**] 10:10 PM
   22 Gauge - [**2149-8-19**] 10:12 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2149-08-21 12:55:00 Physician Attending Progress Note
Chief Complaint: post-IR procedure observation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62M with advanced liver disease, coagulopathy, presented after
   mechanical fall with very larger R chest hematoma:
   24 Hour Events:
   -sheath pulled yesterday am
   -hct stable
 TRANSTHORACIC ECHO - At [**2149-8-20**] 02:00 PM
 URINE CULTURE - At [**2149-8-21**] 06:27 AM
 CALLED OUT and signed off to accepting team this am
   History obtained from Patient
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   lactulose x1, pantopr daily, ursodiol, mvi, thiamine, folate, lasix 60
   daily, spironolactone daily, lactulose tid, morphine prn x3
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Ear, Nose, Throat: No(t) OG / NG tube
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough
   Genitourinary: No(t) Foley
   Integumentary (skin): Jaundice
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-8-21**] 12:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 82 (82 - 106) bpm
   BP: 118/66(78) {100/42(54) - 146/66(88)} mmHg
   RR: 19 (16 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  2,735 mL
                                                                  1,079 mL
   PO:
                                                                    950 mL
                                                                    500 mL
   TF:
   IVF:
                                                                    500 mL
   Blood products:
                                                                  1,285 mL
                                                                    579 mL
   Total out:
                                                                  2,075 mL
                                                                    580 mL
   Urine:
                                                                  2,075 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    660 mL
                                                                    499 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: No(t) Overweight / Obese, Thin, No(t) Anxious
   Eyes / Conjunctiva: scleral ict
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, neurologically intact
   Labs / Radiology
   8.5 g/dL
   147 K/uL
   110 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.7 mEq/L
   29 mg/dL
   105 mEq/L
   135 mEq/L
   24.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2149-8-19**]  07:33 PM
                             [**2149-8-19**]  10:36 PM
                             [**2149-8-20**]  06:12 AM
                             [**2149-8-20**]  01:25 PM
                             [**2149-8-20**]  09:00 PM
                             [**2149-8-21**]  02:50 AM
   WBC
   9.2
   9.4
   7.3
   8.2
   Hct
   25.7
   29.5
   26.9
   26.3
   24.8
   24.1
   Plt
   143
   153
   154
   149
   147
   Cr
   1.0
   1.0
   1.0
   Glucose
   112
   110
   Other labs: PT / PTT / INR:21.8/83.4/2.0, ALT / AST:18/49, Alk Phos / T
   Bili:68/37.3, Fibrinogen:169 mg/dL, Albumin:3.3 g/dL, LDH:751 IU/L,
   Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Imaging: tte: IMPRESSION: Mild symmetric left ventricular hypertrophy
   with preserved global biventricular systolic function. There is no
   pericardial effusion.
   axr: distended loops of bowel
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 COAGULOPATHY
   62M with advanced liver disease, coagulopathy, presented after
   mechanical fall with very larger R chest hematoma. Pt admitted to micu
   after an IR procedure given high risk of bleeding from the groin. After
   being stable for the last 24 hrs, pt just had another significant
   rebleed from the right groin. One of the concerning issues is that the
   patient didn't notice the bleeding (he was sleeping). We are dealing
   with the acute bleeding by checking cbc, coags, transfusing FFP as
   needing, and waiting for IR to reassess the groin. Given this acute
   change it is reasonable to continue to monitor the patient in the ICU
   until the groin bleeding resolved and becomes stable.
   Other issues are more chronic -- see resident notes. Distended abdomen
   is likely from ilius secondary to opiates. Will wait for final read of
   axr.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2149-8-19**] 10:10 PM
   22 Gauge - [**2149-8-19**] 10:12 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2149-08-22 07:20:00 Physician Resident Progress Note
Chief Complaint: Right axillary hematoma
   24 Hour Events:
   - 1pm bleeding from sheath site; pressure + ffp; IR nothing to add
   - HCT stable
   - 10 pm again bleeding from sheath: pressure + ffp
   - Increasing abdominal distension: KUB showed dilated loops of bowel
   (wet read)
   - Received 4 [**Location **] total yesterday
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2149-8-21**] 12:25 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-22**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.2
   HR: 83 (82 - 102) bpm
   BP: 112/52(67) {93/23(44) - 126/66(79)} mmHg
   RR: 19 (17 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  2,779 mL
                  PO:
                                                                    920 mL
                  TF:
   IVF:
   Blood products:
                                                                  1,859 mL
   Total out:
                                                                  2,130 mL
                                                                    300 mL
   Urine:
                                                                  2,130 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    649 mL
                                                                   -300 mL
   Respiratory support
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General: Middle aged, pleasant man in NAD.
   HEENT: Scleral icterus, ungal icterus, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation anteriorly, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, loud S1, normal S2.  No murmurs, rubs,
   gallops
   Abdomen:  Diffusely distended with positive fluid wave.  Non-tender,
   positive bowel sounds.
   GU: no foley
   Ext: 2+ edema in [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 1858**].  Warm, well perfused, dopplerable
   pulses, no clubbing, or cyanosis.
   Labs / Radiology
   162 K/uL
   7.5 g/dL
   112 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.1 mEq/L
   29 mg/dL
   105 mEq/L
   139 mEq/L
   21.8 %
   8.5 K/uL
                             [**2149-8-19**]  07:33 PM
                             [**2149-8-19**]  10:36 PM
                             [**2149-8-20**]  06:12 AM
                             [**2149-8-20**]  01:25 PM
                             [**2149-8-20**]  09:00 PM
                             [**2149-8-21**]  02:50 AM
                             [**2149-8-21**]  12:10 PM
                             [**2149-8-21**]  06:28 PM
                             [**2149-8-22**]  05:43 AM
   WBC
   9.2
   9.4
   7.3
   8.2
   8.5
   Hct
   25.7
   29.5
   26.9
   26.3
   24.8
   24.1
   24.2
   23.0
   21.8
   Plt
   143
   153
   154
   149
   147
   162
   Cr
   1.0
   1.0
   1.0
   0.8
   Glucose
   112
   110
   112
   Other labs: PT / PTT / INR:21.3/66.6/2.0, ALT / AST:16/42, Alk Phos / T
   Bili:65/31.2, Fibrinogen:169 mg/dL, Albumin:3.2 g/dL, LDH:613 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   62 year-old man with h/o ESLD [**2-10**] ETOH cirrhosis and coagulopathy, who
   initially presented with anemia in the setting of large hematoma and
   was transferred to the MICU today for observation s/p embolization of
   intracostal artery.
   # Axillary Hematoma:  s/p  embolization of T9 intercostal artery
   ([**8-19**]).  Hct continues to trend down to 21.8 today.  He had 2 episodes
   of groin bleeding yesterday, for which he received 4 [**Location **].  IR this
   morning recommended consulting vascular sugery.  Transplant surgery saw
   the patient yesterday and recommended continuing FFP and cryo
   transfusions for INR < 1.4 until Hct is stable for 24 hours.  He
   received 2U of FFP yesterday.  Patient
s groin site has bled 3x over
   the past 24 hours.
   - Give another 2 [**Location **] now, as INR is > 2.0 and Hct has decreased
   - Give 1 U PRBCs
   - Vascular Surgery reccs
   - Continue pressure dressing on groin site
   - Continue to monitor Hct TID
   - Morphine prn for pain
   - F/U Transplant surgery and IR reccs
   - amicar infusion
   - heme onc consult
   - vitamin K po
   # Diarrhea/Constipation:  Initially had diarrhea most likely [**2-10**]
   lactulose use.  Cdiff negative x2.   Lactulose was restarted two days
   ago in the setting of increased confusion overnight.  Now appears more
   constipated.
   - Continue Lactulose daily
   - F/U Cdiff culture
   - F/U KUB read
   # EtOH cirrhosis:  Patient was seen by hepatology on this admission and
   is planning to undergo transplant evaluation upon discharge at [**Hospital1 7684**].  Negative para and negative history of
   encephalopathy/varices.   His abdomen is increasingly distended, [**2-10**]
   blood products given over the past 48 hours.  Hepatology is following
   - Consider restarting Lasix today.  Continue to hold Aldactone
   - fu hepatology recs
   # Anemia:  h/o  anemia s/p extensive workup at [**Hospital1 966**] in [**1-17**].  Recent
   colonoscopy/EGD without source of bleed.  DDx includes acute hematoma
   v. underlying liver disease v. diverticulosis, v. portal gastropathy
   etc.  Reportedly guaiac positive stool.
   - Continue to guaiac stools, monitor HCT
   - PO PPI
   - F/[**Location **] GI recommendations. Needs GI f/u as outpatient.
   - [**Month (only) 11**] need repeat endoscopy as outpt or if hct worsens
   # UTI: completed Cipro.  No fever spikes and WBC is trending down.
    - F/U Urine culture from today
s U/A.
   # ARF:  Resolved.
   # HTN: The patient has a history of HTN, for which he takes Lasix and
   Aldactone at home.
    - Restart BP (liver) meds tomorrow if hemodynamically stable.
   # h/o ETOH: Reports longstanding sobriety. No withdrawal symptoms
   during hospitalization.
   ICU Care
   Nutrition:  Regular, cardiac diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-8-19**] 10:00 PM
   22 Gauge - [**2149-8-19**] 10:12 PM
   Prophylaxis:
   DVT:  Hold Heparin SQ until morning
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2149-08-22 11:22:00 Physician Attending Progress Note
Chief Complaint: groin post-procedure bleeding
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62M with advanced EtOH cirrhosis, presented with larger R chest wall
   hematoma after a mechanical fall, now with recurrent bleeding from R
   groin after IR procedures.
   24 Hour Events:
   -recurrent bleeding x2 yesterday; FFP given; IR without new recs other
   than pressure
   -vascular evaluating
   -increasing abd distension
   History obtained from Patient
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2149-8-21**] 12:25 PM
   Other medications:
   sarna, pantopr, ursodiol, mvi, thamine, lasix 60 daily, spirinolactone,
   lactulose; morphine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough
   Gastrointestinal: Abdominal pain, Constipation
   Genitourinary: Foley
   Integumentary (skin): Jaundice
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-8-22**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.2
   HR: 94 (82 - 102) bpm
   BP: 130/65(80) {93/23(44) - 130/66(80)} mmHg
   RR: 20 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  2,779 mL
                                                                    720 mL
   PO:
                                                                    920 mL
           TF:
   IVF:
   170 mL
   Blood products:
                                                                  1,859 mL
                                                                    550 mL
   Total out:
                                                                  2,130 mL
                                                                    450 mL
   Urine:
                                                                  2,130 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    649 mL
                                                                    270 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: minimally
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   162 K/uL
   112 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.1 mEq/L
   29 mg/dL
   105 mEq/L
   139 mEq/L
   21.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2149-8-19**]  07:33 PM
                             [**2149-8-19**]  10:36 PM
                             [**2149-8-20**]  06:12 AM
                             [**2149-8-20**]  01:25 PM
                             [**2149-8-20**]  09:00 PM
                             [**2149-8-21**]  02:50 AM
                             [**2149-8-21**]  12:10 PM
                             [**2149-8-21**]  06:28 PM
                             [**2149-8-22**]  05:43 AM
   WBC
   9.2
   9.4
   7.3
   8.2
   8.5
   Hct
   25.7
   29.5
   26.9
   26.3
   24.8
   24.1
   24.2
   23.0
   21.8
   Plt
   143
   153
   154
   149
   147
   162
   Cr
   1.0
   1.0
   1.0
   0.8
   Glucose
   112
   110
   112
   Other labs: PT / PTT / INR:21.3/66.6/2.0, ALT / AST:16/42, Alk Phos / T
   Bili:65/31.2, Fibrinogen:169 mg/dL, Albumin:3.2 g/dL, LDH:613 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 COAGULOPATHY
   62M with advanced EtOH cirrhosis, presented with larger R chest wall
   hematoma after a mechanical fall, now with recurrent bleeding from R
   groin after IR procedures; also with abdominal distension.
   axillary hematoma: no more procedures for now
   -cont FFP and PRBC as needed
   R groin recurrent bleeding
   -FFP prn
   -check fibrinogen and cryo prn
   -awaiting vascular recs
   -cont pressure dressing
   -will try Amicar after discussion with bloodbank / heme
   Ileus
   -awaiting final axr read
   -lactulose PR and will hold off  after rectal exam, all after groin
   bleeding is more stable
   ESLD: bili down
   -liver following
   ICU Care
   Nutrition: NPO while awaiting possible procedure
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2149-8-19**] 10:12 PM
   20 Gauge - [**2149-8-22**] 09:53 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2149-08-23 08:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 62 year-old man with h/o ESLD [**2-10**] ETOH cirrhosis and
   coagulopathy, who initially presented with anemia in the setting of
   large hematoma and was transferred to the MICU today for observation
   s/p embolization of intracostal artery.
   24 Hour Events:
   - Vascular placed a pressure dressing on hematoma and recommended
   possible surgery if groin bleeds [**Last Name (un) 2226**]
   - Started on Amicar (3 g dose at noon, 1 g at 6 PM, midnight, 6 am)
   - Pt given 2 U PRBCs and 2 U FFP.
   - Hct at 9 PM was 24.6
   - KUB showed dilated loops of bowel, suggestive of ileus
   - heme/onc: If he has more acute bleeding would suggest repleting with
   Factor VIIa in addition to FFP
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2149-8-22**] 12:22 PM
   Morphine Sulfate - [**2149-8-22**] 04:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-23**] 08:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 80 (78 - 94) bpm
   BP: 111/59(71) {102/48(61) - 131/65(80)} mmHg
   RR: 20 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,125 mL
                                                                    200 mL
   PO:
             TF:
   IVF:
                                                                  1,200 mL
                                                                    200 mL
   Blood products:
                                                                    925 mL
   Total out:
                                                                  2,125 mL
                                                                    300 mL
   Urine:
                                                                  2,125 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   149 K/uL
   9.0 g/dL
   107 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.8 mEq/L
   31 mg/dL
   107 mEq/L
   141 mEq/L
   25.5 %
   8.8 K/uL
        [image002.jpg]
                             [**2149-8-19**]  10:36 PM
                             [**2149-8-20**]  06:12 AM
                             [**2149-8-20**]  01:25 PM
                             [**2149-8-20**]  09:00 PM
                             [**2149-8-21**]  02:50 AM
                             [**2149-8-21**]  12:10 PM
                             [**2149-8-21**]  06:28 PM
                             [**2149-8-22**]  05:43 AM
                             [**2149-8-22**]  08:52 PM
                             [**2149-8-23**]  04:29 AM
   WBC
   9.4
   7.3
   8.2
   8.5
   8.8
   Hct
   29.5
   26.9
   26.3
   24.8
   24.1
   24.2
   23.0
   21.8
   24.6
   25.5
   Plt
   153
   154
   149
   147
   162
   149
   Cr
   1.0
   1.0
   0.8
   0.8
   Glucose
   112
   110
   112
   107
   Other labs: PT / PTT / INR:22.0/71.8/2.1, CK / CKMB / Troponin-T:145//,
   ALT / AST:16/42, Alk Phos / T Bili:65/31.2, Fibrinogen:196 mg/dL,
   Albumin:3.2 g/dL, LDH:613 IU/L, Ca++:9.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.4
   mg/dL
   Microbiology: [**2149-8-21**] 6:17 am URINE      Source: CVS.
      URINE CULTURE (Preliminary):
         STAPHYLOCOCCUS, COAGULASE NEGATIVE.    >100,000 ORGANISMS/ML
   Assessment and Plan
   62 year-old man with h/o ESLD [**2-10**] ETOH cirrhosis and coagulopathy, who
   initially presented with anemia in the setting of large hematoma and
   was transferred to the MICU today for observation s/p embolization of
   intracostal artery.
   # Right groin bleed/Axillary Hematoma:  s/p  embolization of T9
   intercostal artery ([**8-19**]) with large chest/back hematoma.  Has had at
   least four episodes of groin bleeding since removal of femoral artery
   sheath, for which he has received multiple units of of FFP.  IR and
   vascular surgery following but poor operative candidate.  Amicar
   started on [**8-22**] and bleeding now stabilized with fem stop yesterday
   (pressure device) and dressing.  Heme-onc recommends factor VII if
   re-bleeds.
   - will hold on FFP now, as INR is 2.0 but Hct stable
   - will hold on PRBC for now
   - Vascular Surgery reccs
   - Continue dressing on groin site
   - Continue to monitor Hct daily, no need for TID
   - Morphine prn for pain
   - F/U Transplant surgery and IR reccs
   - will restart amicar infusion if re-bleeds
   - heme onc reccs
   # Diarrhea/Constipation:  Initially had diarrhea most likely [**2-10**]
   lactulose use.  Cdiff negative x2.   Lactulose was restarted two days
   ago in the setting of increased confusion overnight.  Was constipated
   afterward but now with normal BMs.
   - Continue Lactulose daily
   - F/U Cdiff culture
   - F/U KUB read
   # EtOH cirrhosis:  Patient was seen by hepatology on this admission and
   is planning to undergo transplant evaluation upon discharge at [**Hospital1 7684**].  Negative para and negative history of
   encephalopathy/varices.   His abdomen is increasingly distended, [**2-10**]
   blood products given over the past 48 hours.  Hepatology is following
   - Continue lasix, spironolactone
   - f/u hepatology reccs
   # Anemia:  h/o  anemia s/p extensive workup at [**Hospital1 966**] in [**1-17**].  Recent
   colonoscopy/EGD without source of bleed.  DDx includes acute hematoma
   v. underlying liver disease v. diverticulosis, v. portal gastropathy
   etc.  Reportedly guaiac positive stool.
   - Continue to guaiac stools, monitor HCT
   - PO PPI
   - F/[**Location **] GI recommendations. Needs GI f/u as outpatient.
   - [**Month (only) 11**] need repeat endoscopy as outpt or if hct worsens
   # UTI: completed Cipro.  No fever spikes and WBC is trending down.  Had
   repeat positive urine cx possible in setting of foley; asymptomatic.
    - F/U Urine culture from today
s U/A.
   # ARF:  Resolved.
   # HTN: The patient has a history of HTN, for which he takes Lasix and
   Aldactone at home.
    - Restarted BP (liver) meds.
   # h/o ETOH: Reports longstanding sobriety. No withdrawal symptoms
   during hospitalization.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2149-8-19**] 10:12 PM
   20 Gauge - [**2149-8-22**] 09:53 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: